US08912173B2
0.568 mL N-ethylacetamide was dissolved in 20 mL THF. 0.67 g Potassium tert-butoxide was added and the mixture stirred for 20 min at 50° C. Then 1 g of 4-bromobenzylbromide dissolved in 5 mL THF was added and the suspension stirred for 2 h at 50° C. After cooling, ethylacetate and water were added and the organic phase extracted with water (1×), dried and the solvent distilled off. The product was purified via FCC (cyclohexane/ethylacetate: 90/10→50/50) to yield 830 mg N-(4-bromobenzyl)-N-ethylacetamide as an oil.

reactant | N-ethylacetamide | 0.568 mL | C(C)NC(C)=O | C4H9NO
reactant | Potassium tert-butoxide | 0.67 g | CC(C)([O-])C.[K+]
reactant | 4-bromobenzylbromide | 1 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | N-(4-bromobenzyl)-N-ethylacetamide | 830 mg | BrC1=CC=C(CN(C(C)=O)CC)C=C1 | C11H14BrNO
